US05578604
Ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-trimethylsilylethinyl-4-oxo-3-quinolinecarboxylate
1.95 g of ethyl 5-bromo-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 2.7 g of tributylstannyl-trimethylsilyl-acetylene and 0.29 g of tetrakis-(triphenylphosphine)palladium(0) are refluxed for 4 hours in 20 ml of absolute toluene under a nitrogen atmosphere. The reaction mixture is filtered at room temperature; the solid is washed with a small amount of toluene and dried. 1.6 g of the title compound are obtained (78% of theory).

reactant | ethyl 5-bromo-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.95 g | BrC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)OCC)=O | C15H11BrF3NO3
reactant | tributylstannyl-trimethylsilyl-acetylene | 2.7 g | C(CCC)[Sn](CCCC)(CCCC)C#C[Si](C)(C)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-5-trimethylsilylethinyl-4-oxo-3-quinolinecarboxylate | 1.6 g | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C#C[Si](C)(C)C)=O)C(=O)OCC | C20H20F3NO3Si
